US05633374
A stirred mixture of diphenyl cyanocarbonimidate (1.05 g, 0.00442 mol), 5-amino-pyrimidine (0.42 g, 0.00442 mol) and Et2O (15 mL) was kept at ambient temperature for 4 days and at reflux for one day. There was little reaction. The solvent was evaporated and the residue was mixed with DME and warmed at 50°-55° for 2 days. The mixture was cooled, diluted with Et2O and filtered; the solid was washed with Et2O and dried to give 0.57 g of N'-Cyano-N-(5-pyrimidyl)-O-phenylisourea product.

reactant | diphenyl cyanocarbonimidate | 0.00442 mol, 1.05 g | C1=CC=C(C=C1)OC(=NC#N)OC2=CC=CC=C2 | C14H10N2O2
reactant | 5-amino-pyrimidine | 0.00442 mol, 0.42 g | NC=1C=NC=NC1 | C4H5N3
solvent | Et2O | 15 mL | CCOCC | C4H10O
product | N'-Cyano-N-(5-pyrimidyl)-O-phenylisourea | 0.57 g | C(#N)N=C(NC=1C=NC=NC1)OC1=CC=CC=C1 | C12H9N5O
